US09283229B2
A mixture of 1,2-diphenylethanone (1 g, 5.1 mmol), urea (1.22 g, 20.38 mmol), 4-methoxybenzaldehyde (0.76 g, 1.1 mmol) and conc. HCl (0.4 mL) in EtOH (100 mL) was heated at 85° C. for 108 h. The volatiles were removed under reduced pressure and the residue was purified by column chromatography to afford 4-(4-methoxyphenyl)-5,6-diphenyl-3,4-dihydropyrimidin-2(1H)-one as a yellow solid (400 mg, 22%)

reactant | 1,2-diphenylethanone | 5.1 mmol, 1 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=O | C14H12O
reactant | urea | 20.38 mmol, 1.22 g | NC(=O)N | CH4N2O
reactant | 4-methoxybenzaldehyde | 1.1 mmol, 0.76 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | HCl | 0.4 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-(4-methoxyphenyl)-5,6-diphenyl-3,4-dihydropyrimidin-2(1H)-one | 400 mg, 22% | COC1=CC=C(C=C1)C1NC(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20N2O2
